US06518222B2
9. Preparation of 3-Benzylthio-4-methoxy-2-trifluoromethylthiophene
A mixture of 3.6 g of 4-benzylthio-3-methoxy-5-trifluoromethyl-2-thiophenecarboxylic acid and 0.85 g of copper powder in 50 mL of quinoline was heated to 150° C. for 15 min. The mixture was cooled and partitioned with ether and aqueous HCl. The organic phase was separated, dried over MgSO4, filtered, concentrated and purified by column chromatography to give 2.2 g (71%) of an amber oil. 1H NMR (300 MHz, CDCl3): δ 7.2 (m, 5H); 6.4 (s, 1H); 4.1 (s, 2H); 3.8 (s, 3H). Anal. Calc'd for C13H11F3OS2: C, 51.30; H, 3.64; S, 21.07. Found: C, 51.13; H, 3.54; S, 21.02.

reactant | 4-benzylthio-3-methoxy-5-trifluoromethyl-2-thiophenecarboxylic acid | 3.6 g | C(C1=CC=CC=C1)SC=1C(=C(SC1C(F)(F)F)C(=O)O)OC | C14H11F3O3S2
solvent | quinoline | 50 mL | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | copper | 0.85 g | [Cu] | Cu
product | 3-Benzylthio-4-methoxy-2-trifluoromethylthiophene | 2.2 g, 71% | C(C1=CC=CC=C1)SC1=C(SC=C1OC)C(F)(F)F | C13H11F3OS2
